US07642264B2
2-(3-Bromo-phenyl)-4-(3,4-dichloro-phenyl)-6-methyl-pyrimidine
The title compound was prepared from 2-chloro-4-(3,4-dichloro-phenyl)-6-methyl-pyrimidine (example A.41) (0.4 g, 0.5 mmol) and commercially available 3-bromo-benzeneboronic acid (0.38 g, 1.89 mmol) according to the general procedure IVb. Obtained as an orange solid (0.23 g, 40%). MS (ISP) 394.9 [(M+H)+]; mp 132.5° C.

reactant | 2-chloro-4-(3,4-dichloro-phenyl)-6-methyl-pyrimidine | 0.5 mmol, 0.4 g | ClC1=NC(=CC(=N1)C1=CC(=C(C=C1)Cl)Cl)C | C11H7Cl3N2
reactant | 3-bromo-benzeneboronic acid | 1.89 mmol, 0.38 g | BrC=1C=C(C=CC1)B(O)O | C6H6BBrO2
product | 2-(3-Bromo-phenyl)-4-(3,4-dichloro-phenyl)-6-methyl-pyrimidine | BrC=1C=C(C=CC1)C1=NC(=CC(=N1)C1=CC(=C(C=C1)Cl)Cl)C | C17H11BrCl2N2
